* C:\users\nahu\Escritorio\TC_II\Mi Repo\TC-II\Tarea Semanal\Tarea Semanal 4\Ts4_Activo.asc
C1 N002 Vi {C1}
R1 N002 0 1
R2 N004 N003 0.794
C2 Vo N004 {C2}
XU1 N003 N002 N003 opamp Aol=100K GBW=10Meg
V1 Vi 0 AC 10m
R3 N001 Vo 1
R4 N005 N001 1
R5 N007 N005 1
R6 0 N006 1
C3 N006 N007 {C3}
XU2 N005 N006 N001 opamp Aol=100K GBW=10Meg
XU3 N005 Vo N007 opamp Aol=100K GBW=10Meg
.lib opamp.sub
.param C1=1.26/fo C2=1.59/fo C3=1/fo
.ac dec 100 5K 500K
.param fo=2*pi*40k
.backanno
.end
